US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-fluorophenyl)isoxazole
5-(4-Fluorophenyl)-3-hydroxyisoxazole (0.06 g) and 2-(N-tert-butoxycarbonylamino)ethanol (0.06 g) were subjected to reaction and post-treatment in a similar manner to that described in Example 9(a) to obtain the title compound (0.08 g, 74%) as a colorless powder.

reactant | 5-(4-Fluorophenyl)-3-hydroxyisoxazole | 0.06 g | FC1=CC=C(C=C1)C1=CC(=NO1)O | C9H6FNO2
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 0.06 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-fluorophenyl)isoxazole | 0.08 g, 74% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=CC=C(C=C1)F | C16H19FN2O4
